US07700589B2
4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(3,4-dimethyl-benzyl)-2-(1′-methyl-[4,4′]bipiperidinyl-1-yl)-2-oxo-ethyl]-amide
Prepared analogously to Example 83d) from 3-(3,4-dimethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid and 1-methyl-[4,4′]bipiperidinyl.

reactant | 3-(3,4-dimethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | CC=1C=C(C=CC1C)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C25H30N4O4
reactant | 1-methyl-[4,4′]bipiperidinyl | CN1CCC(CC1)C1CCNCC1 | C11H22N2
product | 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(3,4-dimethyl-benzyl)-2-(1′-methyl-[4,4′]bipiperidinyl-1-yl)-2-oxo-ethyl]-amide | CC=1C=C(CC(C(=O)N2CCC(CC2)C2CCN(CC2)C)NC(=O)N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)C=CC1C | C36H50N6O3
